US08053438B2
To a vial containing 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate (408 mg, 1.678 mmol) and 2,3-dichloropyrazine (250 mg, 1.678 mmol) in THF (2.5 mL) at rt under N2 is added dropwise LiHMDS (1.678 mL, 1.678 mmol). The reaction was stirred at rt 16 h. The reaction mixture was poured into H2O (10 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were washed with saturated NaCl (10 mL), dried (MgSO4), and concentrated. Purification by ISCO (40 g SiO2, 0-75% EtOAc/Hexane) gives 1-tert-butyl 4-methyl 4-(3-chloropyrazin-2-yl)piperidine-1,4-dicarboxylate (565 mg, 1.588 mmol, 95% yield) as a clear, colorless oil. [M+Na]=378.0

reactant | 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate | 1.678 mmol, 408 mg | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | 2,3-dichloropyrazine | 1.678 mmol, 250 mg | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | LiHMDS | 1.678 mmol, 1.678 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | H2O | 10 mL | O | H2O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-methyl 4-(3-chloropyrazin-2-yl)piperidine-1,4-dicarboxylate | 1.588 mmol, 565 mg, 95% yield | ClC=1C(=NC=CN1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C16H22ClN3O4
